US07977344B2
2-[(2-Cyclopropylethyl)oxy]-8-(methyloxy)-9-{2-[(3R)-tetrahydro-3-furanyl]ethyl}-9H-purin-6-amine
Prepared similarly to Intermediate 215 from 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and (3S)-3-(2-bromoethyl)tetrahydrofuran.

reactant | 2-[(2-cyclopropylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C1(CC1)CCOC=1NC(=C2N=C(N=C2N1)OC)N
reactant | (3S)-3-(2-bromoethyl)tetrahydrofuran | BrCC[C@H]1COCC1 | C6H11BrO
product | 2-[(2-Cyclopropylethyl)oxy]-8-(methyloxy)-9-{2-[(3R)-tetrahydro-3-furanyl]ethyl}-9H-purin-6-amine | C1(CC1)CCOC1=NC(=C2N=C(N(C2=N1)CC[C@H]1COCC1)OC)N | C17H25N5O3
